US05824691
The mixture of 3-hydrazinobenzoic acid (2.0 g), 1,1,3,3-tetramethoxypropane (2.2 ml) and conc. hydrochloric acid (2.4 ml) in methanol (10.0 ml) was heated under reflux for 2 hours, and the mixture was evaporated in vacuo. The residue was dissolved in ethyl acetate, washed with a saturated aqueous sodium bicarbonate solution and brine. The residue was obtained by evaporating solvent, and purified by column chromatography on silica gel eluting with dichloromethane. The fractions containing the desired product were collected and evaporated in vacuo to give methyl 3-(pyrazol-1-yl)benzoate (1.33 g).

reactant | 3-hydrazinobenzoic acid | 2.0 g | N(N)C=1C=C(C(=O)O)C=CC1 | C7H8N2O2
reactant | 1,1,3,3-tetramethoxypropane | 2.2 ml | COC(CC(OC)OC)OC | C7H16O4
reactant | hydrochloric acid | 2.4 ml | Cl | ClH
reactant | methanol | 10.0 ml | CO | CH4O
product | methyl 3-(pyrazol-1-yl)benzoate | 1.33 g | N1(N=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C11H10N2O2
